US07351826B2
Step 8. Preparation of (6-Chloropropyl-pyridazin-3-ylmethyl)-isobutyl-amine
To a solution of 6-chloro-3-chloroethyl-4-propyl-pyridazine (3.4 g, 16.58 mmol) in CH3CN (30 ml) is added K2CO3 (9.15 g, 66.3 mmol), isobutylamine (6.6 ml, 66.3 mmol) and the mixture is stirred at room temperature overnight. The solvent is removed in vacuo and to the residue is added water (60 ml) and EtOAc (60 ml). The layers are separated and the organic layer is washed with brine (20 ml) and dried (Na2SO4). Evaporation of the solvent provides a light yellow oil, which is used to next step without further purification.

reactant | 6-chloro-3-chloroethyl-4-propyl-pyridazine | 16.58 mmol, 3.4 g | ClC1=CC(=C(N=N1)CCCl)CCC | C9H12Cl2N2
reactant | K2CO3 | 66.3 mmol, 9.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | isobutylamine | 66.3 mmol, 6.6 ml | C(C(C)C)N | C4H11N
reactant | CH3CN | 30 ml | CC#N | C2H3N
product | (6-Chloropropyl-pyridazin-3-ylmethyl)-isobutyl-amine | ClCCCC1=CC=C(N=N1)CNCC(C)C | C12H20ClN3
